US04486598
(c) 3-Methyl-2-oxo-hept-5-yne phosphonic acid dimethyl ester
A solution of dimethyl methylphosphonate (22.47 g, 181.24 mmol) in 260 ml of tetrahydrofuran is cooled to -78° C. and treated dropwise with n-butyllithium (113 ml, 181.24 mmol), 1.6M in hexane) over a 25-minute period. The mixture is stirred an additional 30 minutes at -78° C., then treated dropwise with 2-methyl-4-hexynoic acid methyl ester (7.25 g, 51.78 mmols) in 65 ml of tetrahydrofuran over a period of 10 minutes. The contents are stirred for another 3 hours at -78° C. and then 17 hours at ambient temperature. The reaction mixture is cooled to 8° C., treated with 14 ml of acetic acid, stirred at ambient temperature for 30 minutes, then concentrated in vacuo. The residue is treated with 100 ml of saturated brine and 100 ml of ice water to form a slurry and extracted 3 times with ether (1400 ml total) and once with 250 ml of ethyl acetate-ether (1:1). The combined organic extracts are washed with saturated brine (2×75 ml), the combined aqueous washings extracted with ethyl acetate-ether (1:1, 1×100 ml) and dried over anhydrous sodium sulfate, and concentrated at reduced pressure. Vacuum distillation gives 10.21 g of the title product, m.p. 121°-125° C., 0.15 mmHg.

reactant | dimethyl methylphosphonate | 181.24 mmol, 22.47 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyllithium | 181.24 mmol, 113 ml | C(CCC)[Li]
reactant | 2-methyl-4-hexynoic acid methyl ester | 51.78 mmols, 7.25 g | COC(C(CC#CC)C)=O | C8H12O2
reactant | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 3-Methyl-2-oxo-hept-5-yne phosphonic acid dimethyl ester | 10.21 g | COP(OC)(=O)CC(C(CC#CC)C)=O | C10H17O4P
